US06242439B1
To a solution of 4(S)-benzyl-1-(tert-butyldimethyl-silyl)-3(S)-hydroxyazetidin-2-one (150 mg, 0.51 mmol) in Et2O (70 mL) at 0° was added silica gel (40-60 μm, 9 g). The vigorously stirred mixture was treated with diazomethane in Et2O (50 mL, 0.3-0.5 M solution). Once the yellow color had almost disappeared after about 15 min, additional diazomethane solution (20 mL) was added. This procedure was repeated several times until no more starting material could be detected on TLC (about 1.5 h). The reaction mixture was stirred for an additional hour at room temperature then filtered and concentrated to give 4(S)-benzyl-1-(tert-butyl-dimethylsilyl)-3(S)-methoxyazetidin-2-one (157 mg, 99% yield) as a white solid which was pure enough for further manipulation. 1H-NMR (400 MHz, CDCl3) δ7.27-7.20 (m, 5H), 4.16 (d, J=1.9 HZ, 1H), 3.67 (ddd, J=11.1, 3.8, 1.9 Hz, 1H), 3.23 (dd, J=13.5, 3.8 Hz, 1H), 2.94 (s, 3H), 2.57 (dd, J=13.4, 11.1 Hz, 1H), 1.01 (s, 9H), 0.32 (d, J=6 Hz, 6H).

reactant | 4(S)-benzyl-1-(tert-butyldimethyl-silyl)-3(S)-hydroxyazetidin-2-one | 0.51 mmol, 150 mg | C(C1=CC=CC=C1)[C@H]1[C@@H](C(N1[Si](C)(C)C(C)(C)C)=O)O | C16H25NO2Si
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | diazomethane | 20 mL | [N+](=[N-])=C | CH2N2
solvent | Et2O | 70 mL | CCOCC | C4H10O
solvent | Et2O | 0.3-0.5 M, 50 mL | CCOCC | C4H10O
product | 4(S)-benzyl-1-(tert-butyl-dimethylsilyl)-3(S)-methoxyazetidin-2-one | 157 mg, 99% yield | C(C1=CC=CC=C1)[C@H]1[C@@H](C(N1[Si](C)(C)C(C)(C)C)=O)OC | C17H27NO2Si
